US08835648B2
5-Bromo-2-chloro-N-(4-nitro-pyridin-3-yl)-benzamide
Method C—Step a To a mixture of 5-Bromo-2-chlorobenzoic acid (5.00 g, 21.23 mmol) in DMF (40 mL), HATU (8.48 g, 22.29 mmol) and triethylamine (2.97 mL, 21.44 mmol) were added. After 30 min stirring at room temperature 4-nitro-pyridin-3ylamine (2.36 g, 16.99 mmol) was added, the reaction mixture stirred at 40° C. overnight and solvent removed. The crude was then diluted with EtOAc (40 mL) and washed first with saturated Na2CO3 solution (6×30 mL) then 1N HCl (3×30 mL). The organic layer was dried over Na2SO4, filtered and left standing. The precipitate obtained was filtered to get 4.75 g of the title compound (63%).

reactant | 5-Bromo-2-chlorobenzoic acid | 21.23 mmol, 5.00 g | BrC=1C=CC(=C(C(=O)O)C1)Cl | C7H4BrClO2
reactant | HATU | 22.29 mmol, 8.48 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 21.44 mmol, 2.97 mL | C(C)N(CC)CC | C6H15N
reactant | 4-nitro-pyridin-3ylamine | 16.99 mmol, 2.36 g | [N+](=O)([O-])C1=C(C=NC=C1)N | C5H5N3O2
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 5-Bromo-2-chloro-N-(4-nitro-pyridin-3-yl)-benzamide | 4.75 g, 63% | BrC=1C=CC(=C(C(=O)NC=2C=NC=CC2[N+](=O)[O-])C1)Cl | C12H7BrClN3O3
